US09403835B2
Step 1: 3-(2-formyl-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester
A mixture of 2-fluoro-benzaldehyde (0.85 mL; 8.06 mmol; 1 eq.), 3-hydroxy-azetidine-1-carboxylic acid tert-butyl ester (1.54 g mg; 8.86 mmol; 1.1 eq.) and K2CO3 (2.23 g; 16.11 mmol; 2 eq.) in DMF (20 mL) was stirred at 120° C. for 16 hours. 3-Hydroxy-azetidine-1-carboxylic acid tert-butyl ester (279 mg; 1.61 mmol; 0.2 eq.) was added and the reaction mixture was stirred at room temperature for 2 days. The reaction mixture was diluted with DCM, washed with water then brine, dried over magnesium sulfate and concentrated in vacuo. Recrystallization from Et2O afforded the title compound (1.03 g, 46%) as a yellow solid. HPLC (max plot) 99.4%; Rt 4.07 min.

reactant | 2-fluoro-benzaldehyde | 8.06 mmol, 0.85 mL, 1 eq. | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 3-hydroxy-azetidine-1-carboxylic acid tert-butyl ester | 8.86 mmol, 1.54 g, 1.1 eq. | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
reactant | K2CO3 | 16.11 mmol, 2.23 g, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Hydroxy-azetidine-1-carboxylic acid tert-butyl ester | 1.61 mmol, 279 mg, 0.2 eq. | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(2-formyl-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 1.03 g, 46% | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=CC=C1)C=O | C15H19NO4
